US04053501
To a vessel containing 20 g (about 0.093 mol) of crude α-bromo-m-toluoyl chloride and 6 g (0.10 mol) of isopropyl alcohol in 50 ml of ether is added, with cooling, about 10 g (0.093 mol) of 2,6-lutidine. After about 3 hours, 4.3 g of solid 2,6-lutidine hydrochloride is filtered off. After an additional 21 hours, 100 ml of ether is added and the mixture is filtered to give an additional 5.4 g of 2,6 -lutidine hydrochloride. The filtrate is washed with 2 × 100 ml of ice water, two 100 ml portions of cold dilute hydrogen bromide, 100 ml of ice water and two 100 ml portions of ice cold sodium bicarbonate solution and the ether layer is dried over calcium sulfate and concentrated under vacuum to yield 17.6 g oil. To this oil is added 16.0 g (0.079 mol) of tributylphosphine in 100 ml of acetonitrile and is heated at reflux under N2 for about 70 minutes then concentrated under vacuum to a black oil. The oil is triturated twice with 200 ml of ether and chromatographed on 150 g acid Woelm Act. I alumina with benzene. The first liter of eluate provides 15.3 g of solid which is crystallized twice from ethylacetate containing a small portion of acetonitrile to yield 6.4 g of m-isopropoxycarbonylbenzyltributylphosphonium bromide, a white solid having a melting point of 151°-153°.

reactant | α-bromo-m-toluoyl chloride | about 0.093 mol, 20 g | BrCC1=CC(=CC=C1)C(=O)Cl | C8H6BrClO
reactant | isopropyl alcohol | 0.10 mol, 6 g | C(C)(C)O | C3H8O
reactant | 2,6-lutidine | 0.093 mol, about 10 g | N1=C(C=CC=C1C)C | C7H9N
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2,6 -lutidine hydrochloride | 5.4 g | Cl.N1=C(C=CC=C1C)C | InChI=1S/C7H9N.ClH/c1-6-4-3-5-7(2)8-6;/h3-5H,1-2H3;1H
